US09353075B2
Step 2. Preparation of (1-methylcyclohexyl)-N-aminocarbamate
In a round bottomed flask equipped with a magnetic stirrer (1-methylcyclohexyl)-(4-nitrophenyl)-carbonate (0.816 g, 2.92 mmol) was dissolved in THF (7 mL) and after 5 min hydrazine hydrate (0.28 mL, 5.85 mmol) was added in one portion. A yellow color immediately appeared which deepened to red in 1 hr. After 3 hr at rt, 1.25M NaOH solution (20 mL) and MTBE (25 mL) were added and the mixture was stirred for 10 min. The two phases were separated and the organic phase was washed again with 1.25M NaOH solution (15 mL) for 10 min (until colorless solution), dried over Na2SO4 and concentrated to give a colorless oil (0.497 g, 98%), which is used in the next step without purification. 1H NMR (CDCl3): δ 1.20-1.60 (m, 8H), 1.49 (s, 3H), 2.10 (m, 2H), 3.67 (bs, 2H), 5.81 (bs, 1H).

reactant | hydrazine hydrate | 5.85 mmol, 0.28 mL | O.NN
reactant | NaOH | 1.25M, 20 mL | [OH-].[Na+]
reactant | MTBE | 25 mL | CC(C)(C)OC | C5H12O
reactant | THF | 7 mL | C1CCOC1 | C4H8O
product | (1-methylcyclohexyl)-N-aminocarbamate | 0.497 g, 98% | CC1(CCCCC1)OC(NN)=O | C8H16N2O2
